US07432258B2
a) 6,7-dimethyl-2H-1,4-benzoxazin-3(4H)-one
A solution of 4,5-dimethyl-2-aminophenol (1.73 g, 12.6 mmol) in chloroform (50 mL) was added to a rapidly stirred saturated solution of sodium bicarbonate. Bromoacetyl bromide (1.1 mL, 2.54 g, 12.6 mmol) in chloroform (15 mL) was added dropwise to the rapidly stirring mixture. Stirring continued for 2 h. EtOAc was added. Layers separated and the EtOAc solution washed with H2O (1×), brine (1×), dried (MgSO4) and concentrated to give a brown solid, which was dissolved in DMF (85 mL). CsCO3 (4.1 g, 12.6 mmol) was added and the mixture heated at 80 deg. C. for 1 h, then poured into ice-H2O (200 mL). The crystallized product was collected, washed with H2O, and dried to give a tan solid (1.78 g, 80%). MS (ES) m/e 178[M+H]+.

reactant | 4,5-dimethyl-2-aminophenol | 12.6 mmol, 1.73 g | CC1=CC(=C(C=C1C)O)N | C8H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Bromoacetyl bromide | 12.6 mmol, 1.1 mL, 2.54 g | BrCC(=O)Br | C2H2Br2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 85 mL | CN(C)C=O | C3H7NO
product | 6,7-dimethyl-2H-1,4-benzoxazin-3(4H)-one | 1.78 g, 80% | CC=1C(=CC2=C(NC(CO2)=O)C1)C | C10H11NO2
